US06723716B1
2-Amino-4-(2-t-butyloxycarbonylaminoethylthiomethyl)-5-mercapto-1,3-thiazole
To a stirred solution of 2-amino-4-(2-t-butyloxycarbonylaminoethylthiomethyl)-5-thiocyanato-1,3-thiazole (2.83 g, 8.19 mmol) in methanol (30 mL) at room temperature was added sodium borohydride under nitrogen (0.93 g, 24.6 mol) and stirring was continued for 1 hour. After addition of water, stirring was continued until gas evolution subsided and the aqueous solution was washed with methylene chloride to remove impurities. Aqueous thiolate solution was neutralized with dilute hydrochloric acid and the product was extracted with ethyl acetate (all manipulations were performed under nitrogen to prevent formation of disulfide). Organic layer was dried over sodium sulfate and concentrated under reduced pressure to afford pale orange foam of title product (1.72 g) which was used f6r further steps without further purification. 1H NMR (CDCl3) δ 1.40 (s, 9H), 2.60 (m, 2H), 3.20 (m, 2H), 3.65 (s, 2H), 5.40 (s, 1H).

reactant | 2-amino-4-(2-t-butyloxycarbonylaminoethylthiomethyl)-5-thiocyanato-1,3-thiazole | 8.19 mmol, 2.83 g | NC=1SC(=C(N1)CSCCNC(=O)OC(C)(C)C)SC#N | C12H18N4O2S3
reactant | sodium borohydride | [BH4-].[Na+]
reactant | water | O | H2O
solvent | methanol | 30 mL | CO | CH4O
product | 2-Amino-4-(2-t-butyloxycarbonylaminoethylthiomethyl)-5-mercapto-1,3-thiazole | 1.72 g | NC=1SC(=C(N1)CSCCNC(=O)OC(C)(C)C)S | C11H19N3O2S3
